US04948804
1-(4-methoxybenzoyl) 5-ethoxy pyrrolidin-2-one
2.6 g of sodium hydride (dispersed at 55-60% in oil) is added to a solution of 7 g of 5-ethoxy pyrrolidin-2-one in 150 cm3 of dioxane, with agitation for 1 hour. A solution of 9.25 g of 4-methoxy benzoyl chloride in 60 cm3 of dioxane is added with agitation for 4 hours. After filtering, the dioxane is evaporated under reduced pressure. The residue is chromatographed on 500 g of silica gel (eluent: acetone-n-hexane 1-2) and 6.35 g of expected product is obtained. b.p. =210° C. under 0.09 mbar.

reactant | sodium hydride | 2.6 g | [H-].[Na+]
reactant | 5-ethoxy pyrrolidin-2-one | 7 g | C(C)OC1CCC(N1)=O | C6H11NO2
reactant | 4-methoxy benzoyl chloride | 9.25 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dioxane | 150 cm3 | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 cm3 | O1CCOCC1 | C4H8O2
product | 1-(4-methoxybenzoyl) 5-ethoxy pyrrolidin-2-one | 6.35 g | COC1=CC=C(C(=O)N2C(CCC2OCC)=O)C=C1 | C14H17NO4
